US07652041B2
Step 3. Preparation of 3-(3-{[2-(acetylamino)pyridin-4-yl]oxy}phenyl)propanoic acid
To a solution of methyl 3-(3-{[2-(acetylamino)pyridin-4-yl]oxy}phenyl)propanoate (184 mg, 0.59 mmol) in MeOH (5 mL) was added 1N NaOH solution (702 μL, 0.70 mmol). The reaction was stirred for 18 h. The solvents were evaporated and the residue was dissolved in water and acidified to pH=1 by addition of 1N HCl solution. The precipitate was filtered off and washed with water then hexane and dried under vacuum to yield the title compound as a white solid (112 mg, 63.7%). LCMS: (FA) ES+ 301.2 (M+1), ES− 299.3 (M−1).

reactant | methyl 3-(3-{[2-(acetylamino)pyridin-4-yl]oxy}phenyl)propanoate | 0.59 mmol, 184 mg | C(C)(=O)NC1=NC=CC(=C1)OC=1C=C(C=CC1)CCC(=O)OC | C17H18N2O4
reactant | NaOH | 0.70 mmol, 1N, 702 μL | [OH-].[Na+]
solvent | MeOH | 5 mL | CO | CH4O
product | 3-(3-{[2-(acetylamino)pyridin-4-yl]oxy}phenyl)propanoic acid | 112 mg, 63.7% | C(C)(=O)NC1=NC=CC(=C1)OC=1C=C(C=CC1)CCC(=O)O | C16H16N2O4
